US08114868B2
To a solution of (S)-1-(1-(4-bromophenyl)ethylamino)-4-methylpentan-3-one (740 mg, 2.5 mmol) in THF (25 mL) was added dropwise allylmagnesium bromide (25 mL, 25 mmol) under N2 at −78° C. The reaction mixture was stirred at −78° C. for 2 h, quenched by addition of satd aq NH4Cl, and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and filtered. The solvent was removed under vacuo to give 1-((S)-1-(4-bromophenyl)ethylamino)-3-isopropylhex-5-en-3-ol (802 mg, 95% yield), which was used directly in the next step.

reactant | (S)-1-(1-(4-bromophenyl)ethylamino)-4-methylpentan-3-one | 2.5 mmol, 740 mg | BrC1=CC=C(C=C1)[C@H](C)NCCC(C(C)C)=O | C14H20BrNO
reactant | allylmagnesium bromide | 25 mmol, 25 mL | C(C=C)[Mg]Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-((S)-1-(4-bromophenyl)ethylamino)-3-isopropylhex-5-en-3-ol | 802 mg, 95% yield | BrC1=CC=C(C=C1)[C@H](C)NCCC(CC=C)(O)C(C)C | C17H26BrNO
